US06720338B2
2-(phenylsulfonyl)ethanamine
A mixture of ((2-chloroethyl)sulfonyl)benzene (1.02 g, 5.0 mmol), potassium phthalimide (1.02 g, 5.5 mmol), 18-crown-6 (50 mg), and tetrabutylammonium iodide (50 mg) in dioxane was heated to reflux, stirred for 24 hours, cooled to room temperature, diluted with ethyl acetate (100 mL), washed with water and brine, dried (MgSO4), filtered, and concentrated. The concentrate was dissolved in ethanol (10 mL), treated with hydrazine hydrate (1 mL), heated to reflux, stirred for 2 hours, cooled to room temperature, filtered through diatomaceous earth (Celite®), and rinsed with ethyl acetate. The filtrate was treated with ethyl acetate, washed with water and brine, dried (MgSO4), filtered, and concentrated. The concentrate was dissolved in diethyl ether (5 mL), treated with 1M HCl in diethyl ether (10 mL), and filtered. The solid was washed with diethyl ether, suspended in ethyl acetate (80 mL), washed with 2M Na2CO3 and brine, dried (MgSO4), filtered, and concentrated to provide the desired product.

reactant | ((2-chloroethyl)sulfonyl)benzene | 5.0 mmol, 1.02 g | ClCCS(=O)(=O)C1=CC=CC=C1 | C8H9ClO2S
reactant | potassium phthalimide | 5.5 mmol, 1.02 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | 18-crown-6 | 50 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
catalyst | tetrabutylammonium iodide | 50 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-(phenylsulfonyl)ethanamine | C1(=CC=CC=C1)S(=O)(=O)CCN | C8H11NO2S
